US08530461B2
a) 3-(4-Cyclopropylmethoxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester
A mixture of 2.6 g (10.4 mmol) 3-methanesulfonyloxy-azetidine-1-carboxylic acid tert-butyl ester, 1.7 g (10.4 mmol) 4-cyclopropylmethoxy-phenol and 6.7 g (20.7 mmol) Cs2CO3 in 60 mL DMF is stirred for 12 h at 80° C. Water is added and the mixture is extracted with ethyl acetate (2×). The combined organic layers are washed with NaHCO3 solution and are dried over MgSO4. The solvent is evaporated and the residue is purified by column chromatography (silica gel; PE/ethyl acetate; gradient 9:1→8:2) to yield the desired product.

reactant | 3-methanesulfonyloxy-azetidine-1-carboxylic acid tert-butyl ester | 10.4 mmol, 2.6 g | C(C)(C)(C)OC(=O)N1CC(C1)OS(=O)(=O)C | C9H17NO5S
reactant | 4-cyclopropylmethoxy-phenol | 10.4 mmol, 1.7 g | C1(CC1)COC1=CC=C(C=C1)O | C10H12O2
reactant | Cs2CO3 | 20.7 mmol, 6.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 3-(4-Cyclopropylmethoxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)OC1=CC=C(C=C1)OCC1CC1 | C18H25NO4
